US04517202
A solution of 6-acetoxy-2-carboxybicyclo[3,3,0]octane (3.2 g; prepared as described in Reference Example 5 and predominantly in the 2β-configuration) in tetrahydrofuran (30 ml) at -40° C. was treated with a solution of diborane in tetrahydrofuran (15 ml; 1M) under an argon atmosphere. The solution was stirred for 1 hour at -40° C. and then it was allowed to warm to 0° C. during 1 hour and was maintained at 0° C. for a further period of 150 minutes. The solution was then allowed to warm to 20° C. during 17 hours. The solution was then treated with aqueous ammonium chloride solution (10% w/v) and the mixture was concentrated in vacuo. The resulting residue was treated with ethyl acetate (100 ml) and washed with water (50 ml) and then with saturated aqueous sodium bicarbonate solution, and then was dried over anhydrous sodium sulphate. The solution was concentrated in vacuo to give an oil, which was subjected to medium pressure, short column chromatography on silica gel, eluting with a mixture of ethyl acetate and toluene (1:1 v/v), to give 6-acetoxy-2-hydroxymethylbicyclo[3,3,0]octane (2.8 g), predominantly in the 2β-configuration.

reactant | 6-acetoxy-2-carboxybicyclo[3,3,0]octane | C(C)(=O)OC1C2CCC(C2CC1)C(=O)O | C11H16O4
reactant | diborane | B#B | B2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1M, 15 ml | O1CCCC1 | C4H8O
product | 6-acetoxy-2-hydroxymethylbicyclo[3,3,0]octane | 2.8 g | C(C)(=O)OC1C2CCC(C2CC1)CO | C11H18O3
